US05210239
3,5-Diethoxy-4-methoxybenzoic acid
63 g of methyl 3,5-diethoxy-4-methoxybenzoate prepared in Referential Example 2 was dissovled in 200 ml of ethanol and 80 ml of water and 44 g of caustic soda was added thereto. The mixture was heated at 70° C. for 2 hr while stirring, cooled, weakly acidified with dilute hydrochloric acid and extracted with dichloromethane. The organic phase was washed with water and dried over anhydrous magnesium sulfate, and the solvent was then distilled off to prepare 48 g of the crude product (white solid).

reactant | methyl 3,5-diethoxy-4-methoxybenzoate | 63 g | C(C)OC=1C=C(C(=O)OC)C=C(C1OC)OCC | C13H18O5
reactant | water | 80 ml | O | H2O
reactant | caustic soda | 44 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,5-Diethoxy-4-methoxybenzoic acid | C(C)OC=1C=C(C(=O)O)C=C(C1OC)OCC | C12H16O5
